US09399640B2
Step 3. 1-Bromo-4-methoxy-3-nitro-2-phenoxybenzene
This compound was synthesized according to the procedure of Example 1, Step 1, using 1-bromo-2-fluoro-4-methoxy-3-nitrobenzene and phenol as the starting materials.

reactant | 1-bromo-2-fluoro-4-methoxy-3-nitrobenzene | BrC1=C(C(=C(C=C1)OC)[N+](=O)[O-])F | C7H5BrFNO3
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
product | 1-Bromo-4-methoxy-3-nitro-2-phenoxybenzene | BrC1=C(C(=C(C=C1)OC)[N+](=O)[O-])OC1=CC=CC=C1 | C13H10BrNO4
